pay-optical
*SPICE Netlist generated by Advanced Sim server on 2018-08-01 5:57:21 PM

*Schematic Netlist:
C1 0 NetC1_2 0.1uF CAP
C2 0 NetC1_2 100pF CAP
C3 NetC3_1 0 150nF CAP
C13 0 3V 0.47uF CAP
C17_TIA1 NetC17_TIA1_1 TIA1_CH1 1pF CAP
C17_TIA2 NetC17_TIA2_1 TIA2_CH1 1pF CAP
C17_TIA3 NetC17_TIA3_1 TIA3_CH1 1pF CAP
C17_TIA4 NetC17_TIA4_1 TIA4_CH1 1pF CAP
C17_TIA5 NetC17_TIA5_1 TIA5_CH1 1pF CAP
C17_TIA6 NetC17_TIA6_1 TIA6_CH1 1pF CAP
C17_TIA7 NetC17_TIA7_1 TIA7_CH1 1pF CAP
C17_TIA8 NetC17_TIA8_1 TIA8_CH1 1pF CAP
C17_TIA9 NetC17_TIA9_1 TIA1_CH2 1pF CAP
C17_TIA10 NetC17_TIA10_1 TIA2_CH2 1pF CAP
C17_TIA11 NetC17_TIA11_1 TIA3_CH2 1pF CAP
C17_TIA12 NetC17_TIA12_1 TIA4_CH2 1pF CAP
C17_TIA13 NetC17_TIA13_1 TIA5_CH2 1pF CAP
C17_TIA14 NetC17_TIA14_1 TIA6_CH2 1pF CAP
C17_TIA15 NetC17_TIA15_1 TIA7_CH2 1pF CAP
C17_TIA16 NetC17_TIA16_1 TIA8_CH2 1pF CAP
C17_TIA17 NetC17_TIA17_1 TIA1_CH3 1pF CAP
C17_TIA18 NetC17_TIA18_1 TIA2_CH3 1pF CAP
C17_TIA19 NetC17_TIA19_1 TIA3_CH3 1pF CAP
C17_TIA20 NetC17_TIA20_1 TIA4_CH3 1pF CAP
C17_TIA21 NetC17_TIA21_1 TIA5_CH3 1pF CAP
C17_TIA22 NetC17_TIA22_1 TIA6_CH3 1pF CAP
C17_TIA23 NetC17_TIA23_1 TIA7_CH3 1pF CAP
C17_TIA24 NetC17_TIA24_1 TIA8_CH3 1pF CAP
C17_TIA25 NetC17_TIA25_1 TIA1_CH4 1pF CAP
C17_TIA26 NetC17_TIA26_1 TIA2_CH4 1pF CAP
C17_TIA27 NetC17_TIA27_1 TIA3_CH4 1pF CAP
C17_TIA28 NetC17_TIA28_1 TIA4_CH4 1pF CAP
C17_TIA29 NetC17_TIA29_1 TIA5_CH4 1pF CAP
C17_TIA30 NetC17_TIA30_1 TIA6_CH4 1pF CAP
C17_TIA31 NetC17_TIA31_1 TIA7_CH4 1pF CAP
C17_TIA32 NetC17_TIA32_1 TIA8_CH4 1pF CAP
C17_TIA_S33 NetC17_TIA_S33_1 TIA1 1pF CAP
C17_TIA_S34 NetC17_TIA_S34_1 TIA2 1pF CAP
C18 NetC18_1 0 1pF CAP
C19 0 3V 0.1uF CAP
C20_TIA1 AGND 3V 0.1uF CAP
C20_TIA2 AGND 3V 0.1uF CAP
C20_TIA3 AGND 3V 0.1uF CAP
C20_TIA4 AGND 3V 0.1uF CAP
C20_TIA5 AGND 3V 0.1uF CAP
C20_TIA6 AGND 3V 0.1uF CAP
C20_TIA7 AGND 3V 0.1uF CAP
C20_TIA8 AGND 3V 0.1uF CAP
C20_TIA9 AGND 3V 0.1uF CAP
C20_TIA10 AGND 3V 0.1uF CAP
C20_TIA11 AGND 3V 0.1uF CAP
C20_TIA12 AGND 3V 0.1uF CAP
C20_TIA13 AGND 3V 0.1uF CAP
C20_TIA14 AGND 3V 0.1uF CAP
C20_TIA15 AGND 3V 0.1uF CAP
C20_TIA16 AGND 3V 0.1uF CAP
C20_TIA17 AGND 3V 0.1uF CAP
C20_TIA18 AGND 3V 0.1uF CAP
C20_TIA19 AGND 3V 0.1uF CAP
C20_TIA20 AGND 3V 0.1uF CAP
C20_TIA21 AGND 3V 0.1uF CAP
C20_TIA22 AGND 3V 0.1uF CAP
C20_TIA23 AGND 3V 0.1uF CAP
C20_TIA24 AGND 3V 0.1uF CAP
C20_TIA25 AGND 3V 0.1uF CAP
C20_TIA26 AGND 3V 0.1uF CAP
C20_TIA27 AGND 3V 0.1uF CAP
C20_TIA28 AGND 3V 0.1uF CAP
C20_TIA29 AGND 3V 0.1uF CAP
C20_TIA30 AGND 3V 0.1uF CAP
C20_TIA31 AGND 3V 0.1uF CAP
C20_TIA32 AGND 3V 0.1uF CAP
C20_TIA_S33 AGND 3V 0.1uF CAP
C20_TIA_S34 AGND 3V 0.1uF CAP
C21_TIA1 AGND 3V 1uF CAP
C21_TIA2 AGND 3V 1uF CAP
C21_TIA3 AGND 3V 1uF CAP
C21_TIA4 AGND 3V 1uF CAP
C21_TIA5 AGND 3V 1uF CAP
C21_TIA6 AGND 3V 1uF CAP
C21_TIA7 AGND 3V 1uF CAP
C21_TIA8 AGND 3V 1uF CAP
C21_TIA9 AGND 3V 1uF CAP
C21_TIA10 AGND 3V 1uF CAP
C21_TIA11 AGND 3V 1uF CAP
C21_TIA12 AGND 3V 1uF CAP
C21_TIA13 AGND 3V 1uF CAP
C21_TIA14 AGND 3V 1uF CAP
C21_TIA15 AGND 3V 1uF CAP
C21_TIA16 AGND 3V 1uF CAP
C21_TIA17 AGND 3V 1uF CAP
C21_TIA18 AGND 3V 1uF CAP
C21_TIA19 AGND 3V 1uF CAP
C21_TIA20 AGND 3V 1uF CAP
C21_TIA21 AGND 3V 1uF CAP
C21_TIA22 AGND 3V 1uF CAP
C21_TIA23 AGND 3V 1uF CAP
C21_TIA24 AGND 3V 1uF CAP
C21_TIA25 AGND 3V 1uF CAP
C21_TIA26 AGND 3V 1uF CAP
C21_TIA27 AGND 3V 1uF CAP
C21_TIA28 AGND 3V 1uF CAP
C21_TIA29 AGND 3V 1uF CAP
C21_TIA30 AGND 3V 1uF CAP
C21_TIA31 AGND 3V 1uF CAP
C21_TIA32 AGND 3V 1uF CAP
C21_TIA_S33 AGND 3V 1uF CAP
C21_TIA_S34 AGND 3V 1uF CAP
C22 0 3V 1uF CAP
C23 0 3V 0.1uF CAP
C24 0 3V 1uF CAP
C37 0 3V3 0.47uF CAP
C44_LED_Signal_Mux1 0 3V 0.1uF CAP
C44_LED_Signal_Mux2 0 3V 0.1uF CAP
C44_LED_Signal_Mux3 0 3V 0.1uF CAP
C44_LED_Signal_Mux4 0 3V 0.1uF CAP
C44_LED_Signal_Mux5 0 3V 0.1uF CAP
C44_TIA_Signal_Mux1 0 3V 0.1uF CAP
C44_TIA_Signal_Mux2 0 3V 0.1uF CAP
C44_TIA_Signal_Mux3 0 3V 0.1uF CAP
C44_TIA_Signal_Mux4 0 3V 0.1uF CAP
C44_TIA_Signal_Mux5 0 3V 0.1uF CAP
C45_LED_Signal_Mux1 0 3V 10uF CAP
C45_LED_Signal_Mux2 0 3V 10uF CAP
C45_LED_Signal_Mux3 0 3V 10uF CAP
C45_LED_Signal_Mux4 0 3V 10uF CAP
C45_LED_Signal_Mux5 0 3V 10uF CAP
C45_TIA_Signal_Mux1 0 3V 10uF CAP
C45_TIA_Signal_Mux2 0 3V 10uF CAP
C45_TIA_Signal_Mux3 0 3V 10uF CAP
C45_TIA_Signal_Mux4 0 3V 10uF CAP
C45_TIA_Signal_Mux5 0 3V 10uF CAP
C? AGND 3V 10uF CAP
C? AGND 3V 0.1uF CAP
C? AGND 3V3 0.1uF CAP
C? AGND NetC?_2 4.7uF CAP
C? AGND 3V 10uF CAP
C? AGND 3V 0.1uF CAP
C? 0 3V 0.1uF CAP
C?_HP_FILTER1 0 NetC?_HP_FILTER1_2 0.1uF CAP
C?_HP_FILTER1 NetC?_HP_FILTER1_1 NetC?_HP_FILTER1_2 0.1uF CAP
C?_HP_FILTER1 0 3V 0.1uF CAP
C?_HP_FILTER1 0 3V 10uF CAP
C?_HP_FILTER1 0 3V 0.1uF CAP
C?_HP_FILTER2 0 NetC?_HP_FILTER2_2 0.1uF CAP
C?_HP_FILTER2 NetC?_HP_FILTER2_1 NetC?_HP_FILTER1_2 0.1uF CAP
C?_HP_FILTER2 0 3V 0.1uF CAP
C?_HP_FILTER2 0 3V 10uF CAP
C?_HP_FILTER2 0 3V 0.1uF CAP
C?_HP_FILTER3 0 NetC?_HP_FILTER3_2 0.1uF CAP
C?_HP_FILTER3 NetC?_HP_FILTER3_1 NetC?_HP_FILTER1_2 0.1uF CAP
C?_HP_FILTER3 0 3V 0.1uF CAP
C?_HP_FILTER3 0 3V 10uF CAP
C?_HP_FILTER3 0 3V 0.1uF CAP
C?_HP_FILTER4 0 NetC?_HP_FILTER4_2 0.1uF CAP
C?_HP_FILTER4 NetC?_HP_FILTER4_1 NetC?_HP_FILTER1_2 0.1uF CAP
C?_HP_FILTER4 0 3V 0.1uF CAP
C?_HP_FILTER4 0 3V 10uF CAP
C?_HP_FILTER4 0 3V 0.1uF CAP
C?_LPF1 0 NetC?_LPF1_2 10uF CAP
C?_LPF2 0 NetC?_LPF1_2 10uF CAP
C?_LPF3 0 NetC?_LPF1_2 10uF CAP
C?_LPF4 0 NetC?_LPF1_2 10uF CAP
C?_LPF5 0 NetC?_LPF1_2 10uF CAP
C?_LPF6 0 NetC?_LPF1_2 10uF CAP
C?_LPF7 0 NetC?_LPF1_2 10uF CAP
C?_LPF8 0 NetC?_LPF1_2 10uF CAP
C?_SD1 NetC?_SD1_1 0 2pF CAP
C?_SD1 NetC?_SD1_1 0 2pF CAP
C?_SD1 0 3V 10uF CAP
C?_SD1 0 3V 0.1uF CAP
C?_SD1 0 NetC?_SD1_2 0.1uF CAP
C?_SD1 3V 0 10uF CAP
C?_SD1 0 3V 0.1uF CAP
C?_SD2 NetC?_SD2_1 0 2pF CAP
C?_SD2 NetC?_SD2_1 0 2pF CAP
C?_SD2 0 3V 10uF CAP
C?_SD2 0 3V 0.1uF CAP
C?_SD2 0 NetC?_SD2_2 0.1uF CAP
C?_SD2 3V 0 10uF CAP
C?_SD2 0 3V 0.1uF CAP
C?_SD3 NetC?_SD3_1 0 2pF CAP
C?_SD3 NetC?_SD3_1 0 2pF CAP
C?_SD3 0 3V 10uF CAP
C?_SD3 0 3V 0.1uF CAP
C?_SD3 0 NetC?_SD3_2 0.1uF CAP
C?_SD3 3V 0 10uF CAP
C?_SD3 0 3V 0.1uF CAP
C?_SD4 NetC?_SD4_1 0 2pF CAP
C?_SD4 NetC?_SD4_1 0 2pF CAP
C?_SD4 0 3V 10uF CAP
C?_SD4 0 3V 0.1uF CAP
C?_SD4 0 NetC?_SD4_2 0.1uF CAP
C?_SD4 3V 0 10uF CAP
C?_SD4 0 3V 0.1uF CAP
D1_TIA1 NetD1_TIA1_1 AGND LED2
D1_TIA2 NetD1_TIA2_1 AGND LED2
D1_TIA3 NetD1_TIA3_1 AGND LED2
D1_TIA4 NetD1_TIA4_1 AGND LED2
D1_TIA5 NetD1_TIA5_1 AGND LED2
D1_TIA6 NetD1_TIA6_1 AGND LED2
D1_TIA7 NetD1_TIA7_1 AGND LED2
D1_TIA8 NetD1_TIA8_1 AGND LED2
D1_TIA9 NetD1_TIA9_1 AGND LED2
D1_TIA10 NetD1_TIA10_1 AGND LED2
D1_TIA11 NetD1_TIA11_1 AGND LED2
D1_TIA12 NetD1_TIA12_1 AGND LED2
D1_TIA13 NetD1_TIA13_1 AGND LED2
D1_TIA14 NetD1_TIA14_1 AGND LED2
D1_TIA15 NetD1_TIA15_1 AGND LED2
D1_TIA16 NetD1_TIA16_1 AGND LED2
D1_TIA17 NetD1_TIA17_1 AGND LED2
D1_TIA18 NetD1_TIA18_1 AGND LED2
D1_TIA19 NetD1_TIA19_1 AGND LED2
D1_TIA20 NetD1_TIA20_1 AGND LED2
D1_TIA21 NetD1_TIA21_1 AGND LED2
D1_TIA22 NetD1_TIA22_1 AGND LED2
D1_TIA23 NetD1_TIA23_1 AGND LED2
D1_TIA24 NetD1_TIA24_1 AGND LED2
D1_TIA25 NetD1_TIA25_1 AGND LED2
D1_TIA26 NetD1_TIA26_1 AGND LED2
D1_TIA27 NetD1_TIA27_1 AGND LED2
D1_TIA28 NetD1_TIA28_1 AGND LED2
D1_TIA29 NetD1_TIA29_1 AGND LED2
D1_TIA30 NetD1_TIA30_1 AGND LED2
D1_TIA31 NetD1_TIA31_1 AGND LED2
D1_TIA32 NetD1_TIA32_1 AGND LED2
D1_TIA_S33 NetD1_TIA_S33_1 AGND LED2
D1_TIA_S34 NetD1_TIA_S34_1 AGND LED2
D3 NetD3_1 0 LED2
R3 NetR3_1 NetC1_2 10K
R4 NetR4_1 NetC1_2 10K
R8_TIA1 FL_LED_CH1 NetD1_TIA1_1 330
R8_TIA2 FL_LED_CH1 NetD1_TIA2_1 330
R8_TIA3 FL_LED_CH1 NetD1_TIA3_1 330
R8_TIA4 FL_LED_CH1 NetD1_TIA4_1 330
R8_TIA5 FL_LED_CH1 NetD1_TIA5_1 330
R8_TIA6 FL_LED_CH1 NetD1_TIA6_1 330
R8_TIA7 FL_LED_CH1 NetD1_TIA7_1 330
R8_TIA8 FL_LED_CH1 NetD1_TIA8_1 330
R8_TIA9 FL_LED_CH2 NetD1_TIA9_1 330
R8_TIA10 FL_LED_CH2 NetD1_TIA10_1 330
R8_TIA11 FL_LED_CH2 NetD1_TIA11_1 330
R8_TIA12 FL_LED_CH2 NetD1_TIA12_1 330
R8_TIA13 FL_LED_CH2 NetD1_TIA13_1 330
R8_TIA14 FL_LED_CH2 NetD1_TIA14_1 330
R8_TIA15 FL_LED_CH2 NetD1_TIA15_1 330
R8_TIA16 FL_LED_CH2 NetD1_TIA16_1 330
R8_TIA17 FL_LED_CH3 NetD1_TIA17_1 330
R8_TIA18 FL_LED_CH3 NetD1_TIA18_1 330
R8_TIA19 FL_LED_CH3 NetD1_TIA19_1 330
R8_TIA20 FL_LED_CH3 NetD1_TIA20_1 330
R8_TIA21 FL_LED_CH3 NetD1_TIA21_1 330
R8_TIA22 FL_LED_CH3 NetD1_TIA22_1 330
R8_TIA23 FL_LED_CH3 NetD1_TIA23_1 330
R8_TIA24 FL_LED_CH3 NetD1_TIA24_1 330
R8_TIA25 FL_LED_CH4 NetD1_TIA25_1 330
R8_TIA26 FL_LED_CH4 NetD1_TIA26_1 330
R8_TIA27 FL_LED_CH4 NetD1_TIA27_1 330
R8_TIA28 FL_LED_CH4 NetD1_TIA28_1 330
R8_TIA29 FL_LED_CH4 NetD1_TIA29_1 330
R8_TIA30 FL_LED_CH4 NetD1_TIA30_1 330
R8_TIA31 FL_LED_CH4 NetD1_TIA31_1 330
R8_TIA32 FL_LED_CH4 NetD1_TIA32_1 330
R8_TIA_S33 FL_LED NetD1_TIA_S33_1 330
R8_TIA_S34 FL_LED NetD1_TIA_S34_1 330
R10_TIA1 NetC17_TIA1_1 TIA1_CH1 1M
R10_TIA2 NetC17_TIA2_1 TIA2_CH1 1M
R10_TIA3 NetC17_TIA3_1 TIA3_CH1 1M
R10_TIA4 NetC17_TIA4_1 TIA4_CH1 1M
R10_TIA5 NetC17_TIA5_1 TIA5_CH1 1M
R10_TIA6 NetC17_TIA6_1 TIA6_CH1 1M
R10_TIA7 NetC17_TIA7_1 TIA7_CH1 1M
R10_TIA8 NetC17_TIA8_1 TIA8_CH1 1M
R10_TIA9 NetC17_TIA9_1 TIA1_CH2 1M
R10_TIA10 NetC17_TIA10_1 TIA2_CH2 1M
R10_TIA11 NetC17_TIA11_1 TIA3_CH2 1M
R10_TIA12 NetC17_TIA12_1 TIA4_CH2 1M
R10_TIA13 NetC17_TIA13_1 TIA5_CH2 1M
R10_TIA14 NetC17_TIA14_1 TIA6_CH2 1M
R10_TIA15 NetC17_TIA15_1 TIA7_CH2 1M
R10_TIA16 NetC17_TIA16_1 TIA8_CH2 1M
R10_TIA17 NetC17_TIA17_1 TIA1_CH3 1M
R10_TIA18 NetC17_TIA18_1 TIA2_CH3 1M
R10_TIA19 NetC17_TIA19_1 TIA3_CH3 1M
R10_TIA20 NetC17_TIA20_1 TIA4_CH3 1M
R10_TIA21 NetC17_TIA21_1 TIA5_CH3 1M
R10_TIA22 NetC17_TIA22_1 TIA6_CH3 1M
R10_TIA23 NetC17_TIA23_1 TIA7_CH3 1M
R10_TIA24 NetC17_TIA24_1 TIA8_CH3 1M
R10_TIA25 NetC17_TIA25_1 TIA1_CH4 1M
R10_TIA26 NetC17_TIA26_1 TIA2_CH4 1M
R10_TIA27 NetC17_TIA27_1 TIA3_CH4 1M
R10_TIA28 NetC17_TIA28_1 TIA4_CH4 1M
R10_TIA29 NetC17_TIA29_1 TIA5_CH4 1M
R10_TIA30 NetC17_TIA30_1 TIA6_CH4 1M
R10_TIA31 NetC17_TIA31_1 TIA7_CH4 1M
R10_TIA32 NetC17_TIA32_1 TIA8_CH4 1M
R10_TIA_S33 NetC17_TIA_S33_1 TIA1 1M
R10_TIA_S34 NetC17_TIA_S34_1 TIA2 1M
R13 0 NetR13_2 1Ohm
R20 NetD3_1 3V3 330
R27_LED_Signal_Mux1 NetR27_LED_Signal_Mux1_1 3V Open
R27_LED_Signal_Mux2 NetR27_LED_Signal_Mux1_1 3V Open
R27_LED_Signal_Mux3 NetR27_LED_Signal_Mux1_1 3V Open
R27_LED_Signal_Mux4 CH4_ENn_5 3V Open
R27_LED_Signal_Mux5 NetR27_LED_Signal_Mux5_1 3V Open
R27_TIA_Signal_Mux1 NetR27_LED_Signal_Mux1_1 3V Open
R27_TIA_Signal_Mux2 NetR27_LED_Signal_Mux1_1 3V Open
R27_TIA_Signal_Mux3 NetR27_LED_Signal_Mux1_1 3V Open
R27_TIA_Signal_Mux4 CH4_ENn_5 3V Open
R27_TIA_Signal_Mux5 NetR27_LED_Signal_Mux5_1 3V Open
R35 NetR13_2 NetC18_1 1M
R38 0 NetR38_2 1m
R? NetR?_1 3V3 10K
R? NetR?_1 3V3 10K
R? NetR38_2 NetJ?_1 1M
R? NetJ?_1 NetR?_2 100
R? 0 TIASigOut4_5 10K
R? 0 NetR?_2 10K
R? CH4_ENn_5 3V 1K
R? NetR27_LED_Signal_Mux5_1 3V 10K
R?_HP_FILTER1 NetR?_HP_FILTER1_1 NetC?_HP_FILTER1_2 200
R?_HP_FILTER1 NetR?_HP_FILTER1_1 NetR?_HP_FILTER1_2
R?_HP_FILTER1 0 NetC?_HP_FILTER1_1 50K
R?_HP_FILTER2 NetR?_HP_FILTER2_1 NetC?_HP_FILTER2_2 200
R?_HP_FILTER2 NetR?_HP_FILTER2_1 NetR?_HP_FILTER2_2
R?_HP_FILTER2 0 NetC?_HP_FILTER2_1 50K
R?_HP_FILTER3 NetR?_HP_FILTER3_1 NetC?_HP_FILTER3_2 200
R?_HP_FILTER3 NetR?_HP_FILTER3_1 NetR?_HP_FILTER3_2
R?_HP_FILTER3 0 NetC?_HP_FILTER3_1 50K
R?_HP_FILTER4 NetR?_HP_FILTER4_1 NetC?_HP_FILTER4_2 200
R?_HP_FILTER4 NetR?_HP_FILTER4_1 NetR?_HP_FILTER4_2
R?_HP_FILTER4 0 NetC?_HP_FILTER4_1 50K
R?_LPF1 NetR?_LPF1_1 NetC?_LPF1_2 1K
R?_LPF2 NetR?_LPF1_1 NetC?_LPF1_2 1K
R?_LPF3 NetR?_LPF1_1 NetC?_LPF1_2 1K
R?_LPF4 NetR?_LPF1_1 NetC?_LPF1_2 1K
R?_LPF5 NetR?_LPF1_1 NetC?_LPF1_2 1K
R?_LPF6 NetR?_LPF1_1 NetC?_LPF1_2 1K
R?_LPF7 NetR?_LPF1_1 NetC?_LPF1_2 1K
R?_LPF8 NetR?_LPF1_1 NetC?_LPF1_2 1K
R?_SD1 3V NetR?_SD1_2 10K
R?_SD1 NetR?_SD1_1 3V 10K
R?_SD1 NetR?_SD1_1 3V 10K
R?_SD1 NetC?_SD1_1 NetR?_SD1_2 0 Ohm
R?_SD2 3V NetR?_SD1_2 10K
R?_SD2 NetR?_SD2_1 3V 10K
R?_SD2 NetR?_SD2_1 3V 10K
R?_SD2 NetC?_SD2_1 NetR?_SD1_2 0 Ohm
R?_SD3 3V NetR?_SD1_2 10K
R?_SD3 NetR?_SD3_1 3V 10K
R?_SD3 NetR?_SD3_1 3V 10K
R?_SD3 NetC?_SD3_1 NetR?_SD1_2 0 Ohm
R?_SD4 3V NetR?_SD1_2 10K
R?_SD4 NetR?_SD4_1 3V 10K
R?_SD4 NetR?_SD4_1 3V 10K
R?_SD4 NetC?_SD4_1 NetR?_SD1_2 0 Ohm
XY?_SD1 NetC?_SD1_1 NetC?_SD1_1 XTAL
XY?_SD2 NetC?_SD2_1 NetC?_SD2_1 XTAL
XY?_SD3 NetC?_SD3_1 NetC?_SD3_1 XTAL
XY?_SD4 NetC?_SD4_1 NetC?_SD4_1 XTAL

.SAVE 0 3V 3V3 AGND CH4_ENn_5 FL_LED FL_LED_CH1 FL_LED_CH2 FL_LED_CH3 FL_LED_CH4
.SAVE NetC?_2 NetC?_HP_FILTER1_1 NetC?_HP_FILTER1_2 NetC?_HP_FILTER2_1
.SAVE NetC?_HP_FILTER2_2 NetC?_HP_FILTER3_1 NetC?_HP_FILTER3_2 NetC?_HP_FILTER4_1
.SAVE NetC?_HP_FILTER4_2 NetC?_LPF1_2 NetC?_SD1_1 NetC?_SD1_2 NetC?_SD2_1 NetC?_SD2_2
.SAVE NetC?_SD3_1 NetC?_SD3_2 NetC?_SD4_1 NetC?_SD4_2 NetC1_2 NetC17_TIA_S33_1
.SAVE NetC17_TIA_S34_1 NetC17_TIA1_1 NetC17_TIA10_1 NetC17_TIA11_1 NetC17_TIA12_1
.SAVE NetC17_TIA13_1 NetC17_TIA14_1 NetC17_TIA15_1 NetC17_TIA16_1 NetC17_TIA17_1
.SAVE NetC17_TIA18_1 NetC17_TIA19_1 NetC17_TIA2_1 NetC17_TIA20_1 NetC17_TIA21_1
.SAVE NetC17_TIA22_1 NetC17_TIA23_1 NetC17_TIA24_1 NetC17_TIA25_1 NetC17_TIA26_1
.SAVE NetC17_TIA27_1 NetC17_TIA28_1 NetC17_TIA29_1 NetC17_TIA3_1 NetC17_TIA30_1
.SAVE NetC17_TIA31_1 NetC17_TIA32_1 NetC17_TIA4_1 NetC17_TIA5_1 NetC17_TIA6_1
.SAVE NetC17_TIA7_1 NetC17_TIA8_1 NetC17_TIA9_1 NetC18_1 NetC3_1 NetD1_TIA_S33_1
.SAVE NetD1_TIA_S34_1 NetD1_TIA1_1 NetD1_TIA10_1 NetD1_TIA11_1 NetD1_TIA12_1
.SAVE NetD1_TIA13_1 NetD1_TIA14_1 NetD1_TIA15_1 NetD1_TIA16_1 NetD1_TIA17_1
.SAVE NetD1_TIA18_1 NetD1_TIA19_1 NetD1_TIA2_1 NetD1_TIA20_1 NetD1_TIA21_1
.SAVE NetD1_TIA22_1 NetD1_TIA23_1 NetD1_TIA24_1 NetD1_TIA25_1 NetD1_TIA26_1
.SAVE NetD1_TIA27_1 NetD1_TIA28_1 NetD1_TIA29_1 NetD1_TIA3_1 NetD1_TIA30_1
.SAVE NetD1_TIA31_1 NetD1_TIA32_1 NetD1_TIA4_1 NetD1_TIA5_1 NetD1_TIA6_1 NetD1_TIA7_1
.SAVE NetD1_TIA8_1 NetD1_TIA9_1 NetD3_1 NetJ?_1 NetR?_1 NetR?_2 NetR?_HP_FILTER1_1
.SAVE NetR?_HP_FILTER1_2 NetR?_HP_FILTER2_1 NetR?_HP_FILTER2_2 NetR?_HP_FILTER3_1
.SAVE NetR?_HP_FILTER3_2 NetR?_HP_FILTER4_1 NetR?_HP_FILTER4_2 NetR?_LPF1_1
.SAVE NetR?_SD1_1 NetR?_SD1_2 NetR?_SD2_1 NetR?_SD3_1 NetR?_SD4_1 NetR13_2
.SAVE NetR27_LED_Signal_Mux1_1 NetR27_LED_Signal_Mux5_1 NetR3_1 NetR38_2 NetR4_1 TIA1
.SAVE TIA1_CH1 TIA1_CH2 TIA1_CH3 TIA1_CH4 TIA2 TIA2_CH1 TIA2_CH2 TIA2_CH3 TIA2_CH4
.SAVE TIA3_CH1 TIA3_CH2 TIA3_CH3 TIA3_CH4 TIA4_CH1 TIA4_CH2 TIA4_CH3 TIA4_CH4 TIA5_CH1
.SAVE TIA5_CH2 TIA5_CH3 TIA5_CH4 TIA6_CH1 TIA6_CH2 TIA6_CH3 TIA6_CH4 TIA7_CH1 TIA7_CH2
.SAVE TIA7_CH3 TIA7_CH4 TIA8_CH1 TIA8_CH2 TIA8_CH3 TIA8_CH4 TIASigOut4_5 @C?[i]
.SAVE @C?_HP_FILTER1[i] @C?_HP_FILTER2[i] @C?_HP_FILTER3[i] @C?_HP_FILTER4[i]
.SAVE @C?_LPF1[i] @C?_LPF2[i] @C?_LPF3[i] @C?_LPF4[i] @C?_LPF5[i] @C?_LPF6[i]
.SAVE @C?_LPF7[i] @C?_LPF8[i] @C?_SD1[i] @C?_SD2[i] @C?_SD3[i] @C?_SD4[i] @C1[i]
.SAVE @C13[i] @C17_TIA_S33[i] @C17_TIA_S34[i] @C17_TIA1[i] @C17_TIA10[i] @C17_TIA11[i]
.SAVE @C17_TIA12[i] @C17_TIA13[i] @C17_TIA14[i] @C17_TIA15[i] @C17_TIA16[i]
.SAVE @C17_TIA17[i] @C17_TIA18[i] @C17_TIA19[i] @C17_TIA2[i] @C17_TIA20[i]
.SAVE @C17_TIA21[i] @C17_TIA22[i] @C17_TIA23[i] @C17_TIA24[i] @C17_TIA25[i]
.SAVE @C17_TIA26[i] @C17_TIA27[i] @C17_TIA28[i] @C17_TIA29[i] @C17_TIA3[i]
.SAVE @C17_TIA30[i] @C17_TIA31[i] @C17_TIA32[i] @C17_TIA4[i] @C17_TIA5[i] @C17_TIA6[i]
.SAVE @C17_TIA7[i] @C17_TIA8[i] @C17_TIA9[i] @C18[i] @C19[i] @C2[i] @C20_TIA_S33[i]
.SAVE @C20_TIA_S34[i] @C20_TIA1[i] @C20_TIA10[i] @C20_TIA11[i] @C20_TIA12[i]
.SAVE @C20_TIA13[i] @C20_TIA14[i] @C20_TIA15[i] @C20_TIA16[i] @C20_TIA17[i]
.SAVE @C20_TIA18[i] @C20_TIA19[i] @C20_TIA2[i] @C20_TIA20[i] @C20_TIA21[i]
.SAVE @C20_TIA22[i] @C20_TIA23[i] @C20_TIA24[i] @C20_TIA25[i] @C20_TIA26[i]
.SAVE @C20_TIA27[i] @C20_TIA28[i] @C20_TIA29[i] @C20_TIA3[i] @C20_TIA30[i]
.SAVE @C20_TIA31[i] @C20_TIA32[i] @C20_TIA4[i] @C20_TIA5[i] @C20_TIA6[i] @C20_TIA7[i]
.SAVE @C20_TIA8[i] @C20_TIA9[i] @C21_TIA_S33[i] @C21_TIA_S34[i] @C21_TIA1[i]
.SAVE @C21_TIA10[i] @C21_TIA11[i] @C21_TIA12[i] @C21_TIA13[i] @C21_TIA14[i]
.SAVE @C21_TIA15[i] @C21_TIA16[i] @C21_TIA17[i] @C21_TIA18[i] @C21_TIA19[i]
.SAVE @C21_TIA2[i] @C21_TIA20[i] @C21_TIA21[i] @C21_TIA22[i] @C21_TIA23[i]
.SAVE @C21_TIA24[i] @C21_TIA25[i] @C21_TIA26[i] @C21_TIA27[i] @C21_TIA28[i]
.SAVE @C21_TIA29[i] @C21_TIA3[i] @C21_TIA30[i] @C21_TIA31[i] @C21_TIA32[i]
.SAVE @C21_TIA4[i] @C21_TIA5[i] @C21_TIA6[i] @C21_TIA7[i] @C21_TIA8[i] @C21_TIA9[i]
.SAVE @C22[i] @C23[i] @C24[i] @C3[i] @C37[i] @C44_LED_Signal_Mux1[i]
.SAVE @C44_LED_Signal_Mux2[i] @C44_LED_Signal_Mux3[i] @C44_LED_Signal_Mux4[i]
.SAVE @C44_LED_Signal_Mux5[i] @C44_TIA_Signal_Mux1[i] @C44_TIA_Signal_Mux2[i]
.SAVE @C44_TIA_Signal_Mux3[i] @C44_TIA_Signal_Mux4[i] @C44_TIA_Signal_Mux5[i]
.SAVE @C45_LED_Signal_Mux1[i] @C45_LED_Signal_Mux2[i] @C45_LED_Signal_Mux3[i]
.SAVE @C45_LED_Signal_Mux4[i] @C45_LED_Signal_Mux5[i] @C45_TIA_Signal_Mux1[i]
.SAVE @C45_TIA_Signal_Mux2[i] @C45_TIA_Signal_Mux3[i] @C45_TIA_Signal_Mux4[i]
.SAVE @C45_TIA_Signal_Mux5[i] @D1_TIA_S33[id] @D1_TIA_S34[id] @D1_TIA1[id]
.SAVE @D1_TIA10[id] @D1_TIA11[id] @D1_TIA12[id] @D1_TIA13[id] @D1_TIA14[id]
.SAVE @D1_TIA15[id] @D1_TIA16[id] @D1_TIA17[id] @D1_TIA18[id] @D1_TIA19[id]
.SAVE @D1_TIA2[id] @D1_TIA20[id] @D1_TIA21[id] @D1_TIA22[id] @D1_TIA23[id]
.SAVE @D1_TIA24[id] @D1_TIA25[id] @D1_TIA26[id] @D1_TIA27[id] @D1_TIA28[id]
.SAVE @D1_TIA29[id] @D1_TIA3[id] @D1_TIA30[id] @D1_TIA31[id] @D1_TIA32[id]
.SAVE @D1_TIA4[id] @D1_TIA5[id] @D1_TIA6[id] @D1_TIA7[id] @D1_TIA8[id] @D1_TIA9[id]
.SAVE @D3[id] @R?[i] @R?_HP_FILTER1[i] @R?_HP_FILTER2[i] @R?_HP_FILTER3[i]
.SAVE @R?_HP_FILTER4[i] @R?_LPF1[i] @R?_LPF2[i] @R?_LPF3[i] @R?_LPF4[i] @R?_LPF5[i]
.SAVE @R?_LPF6[i] @R?_LPF7[i] @R?_LPF8[i] @R?_SD1[i] @R?_SD2[i] @R?_SD3[i] @R?_SD4[i]
.SAVE @R10_TIA_S33[i] @R10_TIA_S34[i] @R10_TIA1[i] @R10_TIA10[i] @R10_TIA11[i]
.SAVE @R10_TIA12[i] @R10_TIA13[i] @R10_TIA14[i] @R10_TIA15[i] @R10_TIA16[i]
.SAVE @R10_TIA17[i] @R10_TIA18[i] @R10_TIA19[i] @R10_TIA2[i] @R10_TIA20[i]
.SAVE @R10_TIA21[i] @R10_TIA22[i] @R10_TIA23[i] @R10_TIA24[i] @R10_TIA25[i]
.SAVE @R10_TIA26[i] @R10_TIA27[i] @R10_TIA28[i] @R10_TIA29[i] @R10_TIA3[i]
.SAVE @R10_TIA30[i] @R10_TIA31[i] @R10_TIA32[i] @R10_TIA4[i] @R10_TIA5[i] @R10_TIA6[i]
.SAVE @R10_TIA7[i] @R10_TIA8[i] @R10_TIA9[i] @R13[i] @R20[i] @R27_LED_Signal_Mux1[i]
.SAVE @R27_LED_Signal_Mux2[i] @R27_LED_Signal_Mux3[i] @R27_LED_Signal_Mux4[i]
.SAVE @R27_LED_Signal_Mux5[i] @R27_TIA_Signal_Mux1[i] @R27_TIA_Signal_Mux2[i]
.SAVE @R27_TIA_Signal_Mux3[i] @R27_TIA_Signal_Mux4[i] @R27_TIA_Signal_Mux5[i] @R3[i]
.SAVE @R35[i] @R38[i] @R4[i] @R8_TIA_S33[i] @R8_TIA_S34[i] @R8_TIA1[i] @R8_TIA10[i]
.SAVE @R8_TIA11[i] @R8_TIA12[i] @R8_TIA13[i] @R8_TIA14[i] @R8_TIA15[i] @R8_TIA16[i]
.SAVE @R8_TIA17[i] @R8_TIA18[i] @R8_TIA19[i] @R8_TIA2[i] @R8_TIA20[i] @R8_TIA21[i]
.SAVE @R8_TIA22[i] @R8_TIA23[i] @R8_TIA24[i] @R8_TIA25[i] @R8_TIA26[i] @R8_TIA27[i]
.SAVE @R8_TIA28[i] @R8_TIA29[i] @R8_TIA3[i] @R8_TIA30[i] @R8_TIA31[i] @R8_TIA32[i]
.SAVE @R8_TIA4[i] @R8_TIA5[i] @R8_TIA6[i] @R8_TIA7[i] @R8_TIA8[i] @R8_TIA9[i] @C?[p]
.SAVE @C?_HP_FILTER1[p] @C?_HP_FILTER2[p] @C?_HP_FILTER3[p] @C?_HP_FILTER4[p]
.SAVE @C?_LPF1[p] @C?_LPF2[p] @C?_LPF3[p] @C?_LPF4[p] @C?_LPF5[p] @C?_LPF6[p]
.SAVE @C?_LPF7[p] @C?_LPF8[p] @C?_SD1[p] @C?_SD2[p] @C?_SD3[p] @C?_SD4[p] @C1[p]
.SAVE @C13[p] @C17_TIA_S33[p] @C17_TIA_S34[p] @C17_TIA1[p] @C17_TIA10[p] @C17_TIA11[p]
.SAVE @C17_TIA12[p] @C17_TIA13[p] @C17_TIA14[p] @C17_TIA15[p] @C17_TIA16[p]
.SAVE @C17_TIA17[p] @C17_TIA18[p] @C17_TIA19[p] @C17_TIA2[p] @C17_TIA20[p]
.SAVE @C17_TIA21[p] @C17_TIA22[p] @C17_TIA23[p] @C17_TIA24[p] @C17_TIA25[p]
.SAVE @C17_TIA26[p] @C17_TIA27[p] @C17_TIA28[p] @C17_TIA29[p] @C17_TIA3[p]
.SAVE @C17_TIA30[p] @C17_TIA31[p] @C17_TIA32[p] @C17_TIA4[p] @C17_TIA5[p] @C17_TIA6[p]
.SAVE @C17_TIA7[p] @C17_TIA8[p] @C17_TIA9[p] @C18[p] @C19[p] @C2[p] @C20_TIA_S33[p]
.SAVE @C20_TIA_S34[p] @C20_TIA1[p] @C20_TIA10[p] @C20_TIA11[p] @C20_TIA12[p]
.SAVE @C20_TIA13[p] @C20_TIA14[p] @C20_TIA15[p] @C20_TIA16[p] @C20_TIA17[p]
.SAVE @C20_TIA18[p] @C20_TIA19[p] @C20_TIA2[p] @C20_TIA20[p] @C20_TIA21[p]
.SAVE @C20_TIA22[p] @C20_TIA23[p] @C20_TIA24[p] @C20_TIA25[p] @C20_TIA26[p]
.SAVE @C20_TIA27[p] @C20_TIA28[p] @C20_TIA29[p] @C20_TIA3[p] @C20_TIA30[p]
.SAVE @C20_TIA31[p] @C20_TIA32[p] @C20_TIA4[p] @C20_TIA5[p] @C20_TIA6[p] @C20_TIA7[p]
.SAVE @C20_TIA8[p] @C20_TIA9[p] @C21_TIA_S33[p] @C21_TIA_S34[p] @C21_TIA1[p]
.SAVE @C21_TIA10[p] @C21_TIA11[p] @C21_TIA12[p] @C21_TIA13[p] @C21_TIA14[p]
.SAVE @C21_TIA15[p] @C21_TIA16[p] @C21_TIA17[p] @C21_TIA18[p] @C21_TIA19[p]
.SAVE @C21_TIA2[p] @C21_TIA20[p] @C21_TIA21[p] @C21_TIA22[p] @C21_TIA23[p]
.SAVE @C21_TIA24[p] @C21_TIA25[p] @C21_TIA26[p] @C21_TIA27[p] @C21_TIA28[p]
.SAVE @C21_TIA29[p] @C21_TIA3[p] @C21_TIA30[p] @C21_TIA31[p] @C21_TIA32[p]
.SAVE @C21_TIA4[p] @C21_TIA5[p] @C21_TIA6[p] @C21_TIA7[p] @C21_TIA8[p] @C21_TIA9[p]
.SAVE @C22[p] @C23[p] @C24[p] @C3[p] @C37[p] @C44_LED_Signal_Mux1[p]
.SAVE @C44_LED_Signal_Mux2[p] @C44_LED_Signal_Mux3[p] @C44_LED_Signal_Mux4[p]
.SAVE @C44_LED_Signal_Mux5[p] @C44_TIA_Signal_Mux1[p] @C44_TIA_Signal_Mux2[p]
.SAVE @C44_TIA_Signal_Mux3[p] @C44_TIA_Signal_Mux4[p] @C44_TIA_Signal_Mux5[p]
.SAVE @C45_LED_Signal_Mux1[p] @C45_LED_Signal_Mux2[p] @C45_LED_Signal_Mux3[p]
.SAVE @C45_LED_Signal_Mux4[p] @C45_LED_Signal_Mux5[p] @C45_TIA_Signal_Mux1[p]
.SAVE @C45_TIA_Signal_Mux2[p] @C45_TIA_Signal_Mux3[p] @C45_TIA_Signal_Mux4[p]
.SAVE @C45_TIA_Signal_Mux5[p] @D1_TIA_S33[p] @D1_TIA_S34[p] @D1_TIA1[p] @D1_TIA10[p]
.SAVE @D1_TIA11[p] @D1_TIA12[p] @D1_TIA13[p] @D1_TIA14[p] @D1_TIA15[p] @D1_TIA16[p]
.SAVE @D1_TIA17[p] @D1_TIA18[p] @D1_TIA19[p] @D1_TIA2[p] @D1_TIA20[p] @D1_TIA21[p]
.SAVE @D1_TIA22[p] @D1_TIA23[p] @D1_TIA24[p] @D1_TIA25[p] @D1_TIA26[p] @D1_TIA27[p]
.SAVE @D1_TIA28[p] @D1_TIA29[p] @D1_TIA3[p] @D1_TIA30[p] @D1_TIA31[p] @D1_TIA32[p]
.SAVE @D1_TIA4[p] @D1_TIA5[p] @D1_TIA6[p] @D1_TIA7[p] @D1_TIA8[p] @D1_TIA9[p] @D3[p]
.SAVE @R?[p] @R?_HP_FILTER1[p] @R?_HP_FILTER2[p] @R?_HP_FILTER3[p] @R?_HP_FILTER4[p]
.SAVE @R?_LPF1[p] @R?_LPF2[p] @R?_LPF3[p] @R?_LPF4[p] @R?_LPF5[p] @R?_LPF6[p]
.SAVE @R?_LPF7[p] @R?_LPF8[p] @R?_SD1[p] @R?_SD2[p] @R?_SD3[p] @R?_SD4[p]
.SAVE @R10_TIA_S33[p] @R10_TIA_S34[p] @R10_TIA1[p] @R10_TIA10[p] @R10_TIA11[p]
.SAVE @R10_TIA12[p] @R10_TIA13[p] @R10_TIA14[p] @R10_TIA15[p] @R10_TIA16[p]
.SAVE @R10_TIA17[p] @R10_TIA18[p] @R10_TIA19[p] @R10_TIA2[p] @R10_TIA20[p]
.SAVE @R10_TIA21[p] @R10_TIA22[p] @R10_TIA23[p] @R10_TIA24[p] @R10_TIA25[p]
.SAVE @R10_TIA26[p] @R10_TIA27[p] @R10_TIA28[p] @R10_TIA29[p] @R10_TIA3[p]
.SAVE @R10_TIA30[p] @R10_TIA31[p] @R10_TIA32[p] @R10_TIA4[p] @R10_TIA5[p] @R10_TIA6[p]
.SAVE @R10_TIA7[p] @R10_TIA8[p] @R10_TIA9[p] @R13[p] @R20[p] @R27_LED_Signal_Mux1[p]
.SAVE @R27_LED_Signal_Mux2[p] @R27_LED_Signal_Mux3[p] @R27_LED_Signal_Mux4[p]
.SAVE @R27_LED_Signal_Mux5[p] @R27_TIA_Signal_Mux1[p] @R27_TIA_Signal_Mux2[p]
.SAVE @R27_TIA_Signal_Mux3[p] @R27_TIA_Signal_Mux4[p] @R27_TIA_Signal_Mux5[p] @R3[p]
.SAVE @R35[p] @R38[p] @R4[p] @R8_TIA_S33[p] @R8_TIA_S34[p] @R8_TIA1[p] @R8_TIA10[p]
.SAVE @R8_TIA11[p] @R8_TIA12[p] @R8_TIA13[p] @R8_TIA14[p] @R8_TIA15[p] @R8_TIA16[p]
.SAVE @R8_TIA17[p] @R8_TIA18[p] @R8_TIA19[p] @R8_TIA2[p] @R8_TIA20[p] @R8_TIA21[p]
.SAVE @R8_TIA22[p] @R8_TIA23[p] @R8_TIA24[p] @R8_TIA25[p] @R8_TIA26[p] @R8_TIA27[p]
.SAVE @R8_TIA28[p] @R8_TIA29[p] @R8_TIA3[p] @R8_TIA30[p] @R8_TIA31[p] @R8_TIA32[p]
.SAVE @R8_TIA4[p] @R8_TIA5[p] @R8_TIA6[p] @R8_TIA7[p] @R8_TIA8[p] @R8_TIA9[p]

*PLOT TRAN -1 1 A=3V
*PLOT OP -1 1 A=3V

*Selected Circuit Analyses:
.TRAN 2E-8 5E-6 0 2E-8
.OP

*Models and Subcircuits:
.MODEL CAP C()

.MODEL LED2 D (IS=93.1P RS=42M N=4.61 BV=4 IBV=10U CJO=2.97P VJ=.75 M=.333
+ TT=4.32U)

.SUBCKT XTAL 1 2 PARAMS: FREQ=1Meg RS=750 C=13pf Q=1000
LX 1 3 {((Q*RS)/(6.2831852*FREQ))} IC=0.5M
CX 3 4 {(1/(Q*6.2831852*FREQ*RS))}
C0 1 2 {C}
RS 4 2 {RS}
.ENDS XTAL

.END
